US06274383B1
Reaction with isatoic anhydride: A mixture of isatoic anhydride (3.3 g, 20 mmol), O-benzylhydroxylamine hydrochloride (4.4 g, 27 mmol) and K2CO3 (6.9 g, 50 mmol) in 20 mL of DMF was stirred at rt until all the anhydride was consumed (ca. 2 days) by thin layer chromatographic analysis. The mixture was diluted with MTBE and washed with water and brine. After removal of solvent, the crude product was recrystallized from EtOAc/heptane to give 2-amino-N-benzyloxylbenzamide as a white solid (3.25 g, 67% yield).

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | isatoic anhydride | 20 mmol, 3.3 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | O-benzylhydroxylamine hydrochloride | 27 mmol, 4.4 g | Cl.C(C1=CC=CC=C1)ON
reactant | K2CO3 | 50 mmol, 6.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-amino-N-benzyloxylbenzamide | 3.25 g, 67% yield | NC1=C(C(=O)NOCC2=CC=CC=C2)C=CC=C1 | C14H14N2O2
